### PR TITLE
fill sorries in proaffineetale branch

### PR DESCRIPTION
**Pull request by chrisflav**

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra address review: Fill the `sorry` in `CategoryTheory.Functor.IsCoverDense.comp_iff_of_locallyCoverDense`.

File: Proetale/Topology/LocalProperties.lean [hunk 1]
```diff
@@ -131,19 +131,42 @@ lemma _root_.CategoryTheory.Functor.IsCoverDense.of_coversTop {C D : Type*} [Cat
...
+    F.IsCoverDense J ↔ G.IsCoverDense J := by
+  suffices h : ∀ {F G : C ⥤ D} (_ : F ≅ G), F.IsCoverDense J → G.IsCoverDense J from
+    ⟨h e, h e.symm⟩
+  rintro F G e ⟨hF⟩
+  refine ⟨fun U => J.superset_covering ?_ (hF U)⟩
+  rintro Y f ⟨⟨Z, ℓ, k, hfg⟩⟩
+  refine ⟨⟨Z, ℓ ≫ e.hom.app Z, e.inv.app Z ≫ k, ?_⟩⟩
+  simp [hfg]
 
 lemma _root_.CategoryTheory.Functor.IsCoverDense.comp_iff_of_locallyCoverDense {C D E : Type*}
```
Comment (chrisflav) [inline Proetale/Topology/LocalProperties.lean]:
```suggestion
lemma _root_.CategoryTheory.Functor.IsCoverDense.comp_iff_of_isCoverDense {C D E : Type*}
```

File: Proetale/Topology/LocalProperties.lean [hunk 2]
```diff
@@ -131,19 +131,42 @@ lemma _root_.CategoryTheory.Functor.IsCoverDense.of_coversTop {C D : Type*} [Cat
...
     [Category* C] [Category* D] [Category* E] {F : C ⥤ D} {G : D ⥤ E} {J : GrothendieckTopology E}
-    [G.LocallyCoverDense J] [G.IsLocallyFull J] [G.IsLocallyFaithful J] :
+    [G.IsCoverDense J] [G.IsLocallyFull J] [G.IsLocallyFaithful J] :
     (F ⋙ G).IsCoverDense J ↔ F.IsCoverDense (G.inducedTopology J) := by
-  sorry
+  refine ⟨fun ⟨h⟩ => ?_, fun ⟨h⟩ => ⟨fun U => ?_⟩⟩
+  · -- forward direction
+    sorry
```
Comment (chrisflav) [inline Proetale/Topology/LocalProperties.lean]: Work on proving this, if it is not provable, you may strengthen the assumptions.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Topology/LocalProperties.lean [hunk 3]
```diff
@@ -131,19 +131,45 @@ lemma _root_.CategoryTheory.Functor.IsCoverDense.of_coversTop {C D : Type*} [Cat
...
-
-lemma _root_.CategoryTheory.Functor.IsCoverDense.comp_iff_of_locallyCoverDense {C D E : Type*}
+    F.IsCoverDense J ↔ G.IsCoverDense J := by
+  suffices h : ∀ {F G : C ⥤ D} (_ : F ≅ G), F.IsCoverDense J → G.IsCoverDense J from
+    ⟨h e, h e.symm⟩
+  rintro F G e ⟨hF⟩
+  refine ⟨fun U => J.superset_covering ?_ (hF U)⟩
+  rintro Y f ⟨⟨Z, ℓ, k, hfg⟩⟩
+  refine ⟨⟨Z, ℓ ≫ e.hom.app Z, e.inv.app Z ≫ k, ?_⟩⟩
+  simp [hfg]
```
Comment (chrisflav) [inline Proetale/Topology/LocalProperties.lean]: Make the forward direction a separate lemma and deduce the `iff` from that.

**Comment by chrisflav** [comment]
orchestra address review
